US07960369B2
methyl (S)-4-[(2,3-dihydro-1H-inden-1-yl) oxy]benzenepropanoate
Methyl 4-hydroxybenzenepropanoate (4.1 g, 22 mmol) was dissolved in tetrahydrofuran (50 mL) and the mixture was stirred at −30° C. (R)-1-Indanol (98% ee) (3.0 g, 22 mmol), 1,1′-(azodicarbonyl)dipiperidine (5.66 g, 22 mmol) and tributylphosphine (5.6 mL, 22 mmol) were added and the mixture was stirred at −30° C. for 23 hrs. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The mixture was concentrated under reduced pressure and the obtained oil was purified by silica gel chromatography (hexane to hexane/ethyl acetate=10:1) to give the title compound (4.4 g, yield 66%) as a yellow oil.

reactant | Methyl 4-hydroxybenzenepropanoate | 22 mmol, 4.1 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | (R)-1-Indanol | 22 mmol, 3.0 g | [C@H]1(CCC2=CC=CC=C12)O | C9H10O
reactant | 1,1′-(azodicarbonyl)dipiperidine | 22 mmol, 5.66 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 22 mmol, 5.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl (S)-4-[(2,3-dihydro-1H-inden-1-yl) oxy]benzenepropanoate | 4.4 g, yield 66% | [C@@H]1(CCC2=CC=CC=C12)OC1=CC=C(C=C1)CCC(=O)OC | C19H20O3
